US04797397
Preparation of α-[(2-Nitro-1H-imidazol-1-yl)methyl)-6-oxa-3-azabicyclo[3.1.0]hexane-3-ethanol, hydrobromide
To a warm solution of 0.2 g of α-[(2-Nitro-1H-imidazol-1-yl)methyl)-6-oxa-3-azabicyclo[3.1.0]-hexane-3-ethanol in 3 ml of ethanol was added excess hydrogen bromide in ethanol. The solution was cooled and the resulting crystals collected to provide the title compound as the hydrobromide salt, mp 152-153 (dec).

reactant | α-[(2-Nitro-1H-imidazol-1-yl)methyl)-6-oxa-3-azabicyclo[3.1.0]-hexane-3-ethanol | 0.2 g | [N+](=O)([O-])C=1N(C=CN1)CC(CN1CC2OC2C1)O | C10H14N4O4
reactant | hydrogen bromide | Br | BrH
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | α-[(2-Nitro-1H-imidazol-1-yl)methyl)-6-oxa-3-azabicyclo[3.1.0]hexane-3-ethanol, hydrobromide | Br.[N+](=O)([O-])C=1N(C=CN1)CC(CN1CC2OC2C1)O | InChI=1S/C10H14N4O4.BrH/c15-7(3-12-5-8-9(6-12)18-8)4-13-2-1-11-10(13)14(16)17;/h1-2,7-9,15H,3-6H2;1H
